Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine / Infliximab / Penicillins / Shellfish / Lactose / 
Claritin
 
Attending: ___.
 
Chief Complaint:
cough, back pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ y.o male with h.o Crohn's disease with h.o strictures and 
fistulas, CIDP neuropathy who presented to urgent care today 
with reports of cough/feeling "congested" for a few weeks with 
light yellow/tan/dark brown sputum that yesterday developed 
hemoptysis x1. In addition, he developed R.sided scapula/back 
pain that is pleuritic in nature ___ days ago. Pain feels like a 
dull ache/bruise and is ___. He denies SOB. Pt reports recent 
travel to ___ and +sick contacts as his wife had "bronchitis" 
preceeding this. Pt reports decreased appetite, and vomiting x1 
due to gag reflex. He otherwise denies fever, chills, ST, 
abdominal pain, nausea, diarrhea, dysuria, rash, headache, 
dizziness. Pt has chronic b/l ___ pain secondary to neuropathy. 
Pt called his PCP who urged him to go to urgent care. There, CXR 
revealed concern for large cavitary abscess in the superior 
segment of the RLL. Pt was then referred to the ED.

.
In the ED, CT chest confirms same findings. VSS. Pt was given 
some of his home medications, IV vanco and cefepime.  
.
10PT ROS reviewed and otherwise negative for fever, chills, 
headache, dizziness, ST, palpitations, abdominal pain, nausea, 
diarrhea, constipation, melena, brbpr, dysuria, hematuria, rash, 
joint pain.
  

 
Past Medical History:
PMH: Crohn's with strictures and perianal fistula, h/o pSBO, B12
deficiency, ___ neuropathy ? ___ infliximab-with chronic 
pain and IVIG treatments
 
PSH: SBR x 2 with stricturoplasty x 2 (___), I&D ischiorectal
abscess with fistulotomy and ___ placement (___), SBR with 
LOA and stricturoplasty x 3 (___), appendectomy.

 
Social History:
___
Family History:
Father- irritable bowel disease.
Father's family has heart disease.
Mother's family had lung cancer, breast cancer.
 
Physical Exam:
GEN: well appearing, NAD, intermittent coughing, speaking in 
full sentences
vitals:T 99.3 BP 127/92 HR 105 RR 18 sat 100% on RA
HEENT: ncat eomi anicteric 
chest: b/l ae no w/c/r
heart: s1s2 rr no m/r/g
abd: +bs, soft, NT, ND, no guarding or rebound
ext: no c/c/e 2+pulses
neuro: face symmetric, speech fluent
psych: calm, cooperative
skin: no apparent rash
 
Pertinent Results:
___ 10:48PM   LACTATE-1.3
___ 10:40PM   GLUCOSE-98 UREA N-9 CREAT-0.6 SODIUM-142 
POTASSIUM-3.7 CHLORIDE-105 TOTAL CO2-26 ANION GAP-15
___ 10:40PM   estGFR-Using this
___ 10:40PM   WBC-10.2*# RBC-3.50* HGB-10.2* HCT-31.2* 
MCV-89# MCH-29.1 MCHC-32.7 RDW-12.6 RDWSD-41.1
___ 10:40PM   NEUTS-74.4* LYMPHS-12.7* MONOS-11.7 EOS-0.5* 
BASOS-0.2 IM ___ AbsNeut-7.57*# AbsLymp-1.29 AbsMono-1.19* 
AbsEos-0.05 AbsBaso-0.02
___ 10:40PM   PLT COUNT-289

CXR ___:
IMPRESSION:    
Large cavitary lesion in the region of the superior segment of 
the right lower lobe, abutting the posterior pleura, with a 
small amount of layering fluid within the central cavity.  
Diagnostic consideration include cavitating bacterial pneumonia, 
as well as TB and other atypical infections.  Malignancy is less 
likely, given the patient's young age. 
  
RECOMMENDATION(S):  Chest CT with intravenous contrast is 
suggested to better define the cavitary lesion and confirm that 
it is parenchymal and not pleural. 
.
CT chest ___:
 
6.1 cm dense consolidation in the superior segment of the right 
lower lobe with an internal 1.6 cm rounded cavity, associated 
bronchiectasis, and right-sided hilar lymphadenopathy. Given the 
patient's clinical history, primary differential consideration 
is infectious etiology, likely a cavitating bacterial pneumonia. 
Other atypical infections, including TB, can also cause 
cavitating lung lesions. Due to the patient's young age, 
malignancy is less likely. 
  
RECOMMENDATION(S): It would be reasonable to obtain followup 
imaging after treatment, to assess for improvement or 
resolution. 

 
Brief Hospital Course:
Mr. ___ is a ___ y/o M w/ Crohns disease and 
polyneuropathy ___ infliximab who presents with cough and back 
pain and was found to have a lung abscess on CT chest.

#lung abscess, suspect bacterial in origin, with pneumonia
- ID consulted - felt this was most likely a 
polymicrobial/anaerobic PNA, no need for biopsy/drainage at this 
time
- numerous studies sent off, many remain pending 
(aspergillus/galactomannan, beta-D-glucan, and coccidiodes 
Ab/Ag)
- initially maintained on airborne precautions
- AFB smears negative for organisms x3, AFB cultures are still 
in progress
- legionella urine Ag negative
- serum crypto Ag negative
- initially on IV vancomycin and IV zosyn 
- symptoms of cough and pleuritic pain improved on broad 
spectrum abx
- changed to PO clindamycin on ___, did well on this
- discharged on PO clindamycin 300 mg PO q6h to be taken at 
least until he follows up in ___ clinic (scheduled for ___

#Crohn's disease
-continued pentasa, PPI and Compazine
-held home ___ during inpatient, but was advised to resume once 
going home

#chronic pain-continue fentanyl patch, lyrica, nortriptyline, 
and substituted oxycodone for percocet

#CIDP/multifocal acquired demyelinating sensory and motor 
neuropathy-felt to be secondary to remicade use. Pt takes IVIG 
SC at home. 
-continued home pain regimen as above.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fentanyl Patch 75 mcg/h TD Q48H 
2. Pregabalin 300 mg PO BID 
3. Mesalamine ___ mg PO BID 
4. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
5. Mercaptopurine 50 mg PO ONCE 
6. Nortriptyline 50 mg PO QHS 
7. Percocet (oxyCODONE-acetaminophen) 7.5-325 mg oral Q4H:PRN 
pain 
8. Prochlorperazine 10 mg PO Q8H:PRN nausea 
9. Gammagard S-D (IgA < 1 mcg/mL) (immun glob G-gly-gluc-IgA 
___ 10 gram injection 1X/WEEK 

 
Discharge Medications:
1. Fentanyl Patch 75 mcg/h TD Q48H 
2. Mesalamine ___ mg PO BID 
3. Nortriptyline 50 mg PO QHS 
4. Pantoprazole 40 mg PO Q24H 
5. Pregabalin 300 mg PO BID 
6. Prochlorperazine 10 mg PO Q8H:PRN nausea 
7. Clindamycin 300 mg PO Q6H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every 6 hours 
Disp #*120 Capsule Refills:*1
8. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*1
9. Senna 8.6 mg PO BID:PRN c 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*30 Capsule Refills:*1
10. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
11. Gammagard S-D (IgA < 1 mcg/mL) (immun glob G-gly-gluc-IgA 
___ 10 gram INJECTION 1X/WEEK (MO) 
12. Mercaptopurine 50 mg PO DAILY 
13. Percocet (oxyCODONE-acetaminophen) 7.5-325 mg ORAL Q4H:PRN 
pain 
14. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*10 Packet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RLL lung abscess with cavitation

 
Discharge Condition:
VS: T 98.3 BP 117/82 HR 76  RR 16  pOx 94-98% on RA
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Gen - No acute distress, appears well
Eyes - anicteric, EOMI
ENT - MMM, OP clear
Neck - No LAD, JVP normal
Cardiovascular - regular rhythm, s1s2 nl, no m/r/g, no edema
Respiratory - breathing comfortably, no accessory muscle use,
decreased breath sounds over RLL and dullness to percussion in
this area; no other areas of decreased breath
sounds or dullness to percussion; no significant wheezing or
rhonchi throughout
GI - soft, non-tender, not distended, bowel sounds present
Skin - warm, dry, with no rash
Psych - alert, calm, cooperative
Neuro - oriented to person, place, time, and reason for 
hospitalization; moving all 4 extremities; no gross focal 
deficits; speech is fluent

 
Discharge Instructions:
You were admitted to the hospital for fever, cough and 
right-sided pleurisy that was due to a lung abscess in your 
right lower lung.  You were initially treated with 
broad-spectrum antibiotics and many tests were sent off.  The ID 
consult team helped to establish a plan of care for your 
infection.  Your symptoms gradually improved and you were 
transitioned to oral antibiotics (clindamycin) and should take 
clindamycin at least until you follow up in ___ clinic 
(appointment time/date listed below).  You can resume taking 
your ___.
 
Followup Instructions:
___